US04988698
To a suspension of 8-methyl-6-nitro-3,4-dihydro-2(1H)-quinolinone (25 g), activated charcoal (8 g) and ferric chloride (2.5 g) in ethanol (700 ml) was dropwise added hydrazine monohydrate (30 g) over the period of 20 minutes at 77° C., and the mixture was stirred for 1 hour. Then, to the reaction mixture were added activated charcoal (3 g) and ferric chloride (1.5 g) and was dropwise added hydrazine monohydrate (10 g). After refluxed for 1.5 hours, the reaction mixture was filtered and the insoluble material was washed with ethanol and a mixture of ethanol and chloroform successively. The solvent was evaporated under reduced pressure and the residue was dissolved in chloroform. The organic layer was washed with water, dried over magnesium sulfate and concentrated under reduced pressure to give 6-amino-8-methyl-3,4-dihydro-2(1H)-quinolinone (19.5 g).

reactant | 8-methyl-6-nitro-3,4-dihydro-2(1H)-quinolinone | 25 g | CC=1C=C(C=C2CCC(NC12)=O)[N+](=O)[O-] | C10H10N2O3
reactant | charcoal | 8 g | C | CH4
reactant | hydrazine monohydrate | 30 g | O.NN
reactant | charcoal | 3 g | C | CH4
reactant | hydrazine monohydrate | 10 g | O.NN
solvent | ethanol | 700 ml | C(C)O | C2H6O
product | 6-amino-8-methyl-3,4-dihydro-2(1H)-quinolinone | 19.5 g | NC=1C=C2CCC(NC2=C(C1)C)=O | C10H12N2O
